US07338960B2
1-(6-Bromo-2-pyridinyl)-1-butanol
A solution of 2,6-dibromopyridine (1.00 g, 4.22 mmol) in THF (40 mL) was cooled to −78° C. (dry-ice/acetone bath) and treated with nBuLi (2.64 mL of a 1.6M solution in hexanes, 4.22 mmol) drop-wise over 10 minutes under nitrogen. After 30 minutes at this temperature the pale yellow/green solution was treated with butyraldehyde (400 μL, 4.44 mmol) drop-wise over 5 minutes and the resulting orange/red solution stirred at this temperature for 1 hour. The solution was then allowed to warm slowly to 0° C. (ice/water bath) over 20 minutes and was then quenched by the drop-wise addition of aqueous HCl (2M, 4 mL). The resulting pale yellow solution was reduced to an oil, partitioned between EtOAc (100 mL) and aqueous HCl (2M, 100 mL), and the layers separated. The aqueous was re-extracted with EtOAc (100 mL) and the combined organic layer washed with water (150 mL), brine (150 mL), dried (MgSO4), filtered and reduced to an orange/yellow oil. Purification by SPE (silica) eluting with cyclohexane:EtOAc (gradient 100:1 to 2:1) afforded the title compound (626 mg).

reactant | 2,6-dibromopyridine | 4.22 mmol, 1.00 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | nBuLi | [Li]CCCC
reactant | butyraldehyde | 4.44 mmol, 400 μL | C(CCC)=O | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromo-2-pyridinyl)-1-butanol | 626 mg | BrC1=CC=CC(=N1)C(CCC)O | C9H12BrNO
